US09145433B2
Sodium borohydride (21 mg) was added to a stirring solution of 5-([3,4′-bipyridin]-2-yl)-2,3-dihydro-1H-inden-1-one (162 mg) in MeOH (4 mL). The reaction mixture was concentrated and quenched with aq. NH4Cl. The resultant solid was extracted into CH2Cl2 (2×20 mL). Combined organic layers were stirred over MgSO4, filtered and concentrated. Flash chromatographic purification (Combiflash® companion System® with RediSep® silica gel column 12 g, 50-75% EtOAc/hexanes as eluting solvent) provided rac-5-([3,4′-bipyridin]-2-yl)-2,3-dihydro-1H-inden-1-ol (170 mg) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 8.69 (dd, J=4.8, 1.6 Hz, 1H), 8.48 (d, J=6.0 Hz, 2H), 7.85 (dd, J=7.8, 1.7 Hz, 1H), 7.48 (dd, J=7.8, 4.7 Hz, 1H), 7.25-7.11 (m, 4H), 7.00 (dd, J=7.8, 1.5 Hz, 1H), 5.29-5.20 (m, 1H), 5.00 (q, J=6.4 Hz, 1H), 2.81 (ddd, J=16.0, 8.7, 3.9 Hz, 1H), 2.61 (dt, J=15.9, 8.0 Hz, 1H), 2.36-2.21 (m, 1H), 1.74 (dtd, J=12.8, 8.2, 6.3 Hz, 1H). LCMS: rt 2.81 min (A), purity 99%, MS (m/e) 289 (MH+).

reactant | Sodium borohydride | 21 mg | [BH4-].[Na+]
reactant | 5-([3,4′-bipyridin]-2-yl)-2,3-dihydro-1H-inden-1-one | 162 mg | N1=C(C(=CC=C1)C1=CC=NC=C1)C=1C=C2CCC(C2=CC1)=O | C19H14N2O
solvent | MeOH | 4 mL | CO | CH4O
product | rac-5-([3,4′-bipyridin]-2-yl)-2,3-dihydro-1H-inden-1-ol | 170 mg | N1=C(C(=CC=C1)C1=CC=NC=C1)C=1C=C2CCC(C2=CC1)O | C19H16N2O
